US07915424B2
5-(3-Cyanomethyl-4-fluorophenylethynyl)-nicotinonitrile
Dissolve 5-(3-chloromethyl-4-fluorophenylethynyl)-nicotinonitrile, (prepared as described in PREPARATION 32), (120 mg, 0.44 mmol) in N,N-dimethylformamide (2.2 mL) and treat with sodium cyanide (86 mg, 1.8 mmol). After stirring for 30 min at room temperature, dilute with ethyl acetate and wash with an aqueous saturated solution of sodium bicarbonate and an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter, and concentrate. Purify by silica gel chromatography, eluting with 70:30 hexanes:ethyl acetate, to give the title compound as a white crystalline solid (90 mg, 78%).

reactant | 5-(3-chloromethyl-4-fluorophenylethynyl)-nicotinonitrile | 0.44 mmol, 120 mg | ClCC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C15H8ClFN2
reactant | sodium cyanide | 1.8 mmol, 86 mg | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 2.2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Cyanomethyl-4-fluorophenylethynyl)-nicotinonitrile | 90 mg, 78% | C(#N)CC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C16H8FN3
